### PR TITLE
[Merged by Bors] - feat: Add `Submodule.le_of_le_smul_of_le_jacobson_bot`.

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Nakayama.lean [hunk 1]
```diff
@@ -70,11 +70,8 @@ theorem eq_bot_of_le_smul_of_le_jacobson_bot (I : Ideal R) (N : Submodule R M) (
   rw [eq_smul_of_le_smul_of_le_jacobson hN hIN hIjac, Submodule.bot_smul]
 #align submodule.eq_bot_of_le_smul_of_le_jacobson_bot Submodule.eq_bot_of_le_smul_of_le_jacobson_bot
 
-/-- **Nakayama's Lemma** - A slightly more general version of (4) in
-[Stacks 00DV](https://stacks.math.columbia.edu/tag/00DV).
-See also `smul_sup_le_of_le_smul_of_le_jacobson_bot` for the special case when `J = ⊥`.  -/
-theorem smul_sup_eq_smul_sup_of_le_smul_of_le_jacobson {I J : Ideal R} {N N' : Submodule R M}
-    (hN' : N'.FG) (hIJ : I ≤ jacobson J) (hNN : N ⊔ N' ≤ N ⊔ I • N') : N ⊔ I • N' = N ⊔ J • N' := by
+theorem sup_eq_smul_sup_of_le_smul_of_le_jacobson {I J : Ideal R} {N N' : Submodule R M}
```
Comment (jcommelin) [inline Mathlib/RingTheory/Nakayama.lean:73]: Unrelated to this PR, but the names in this file seem off. Shouldn't this be
```suggestion
theorem sup_eq_sup_smul_of_le_jacobson_of_le_smul {I J : Ideal R} {N N' : Submodule R M}
```

File: Mathlib/RingTheory/Nakayama.lean [hunk 2]
```diff
@@ -84,19 +81,30 @@ theorem smul_sup_eq_smul_sup_of_le_smul_of_le_jacobson {I J : Ideal R} {N N' : S
...
-  rw [← map_smul'', ← h_comap.eq_iff, comap_map_eq, comap_map_eq, Submodule.ker_mkQ, sup_comm,
-    hNN'] at this
-  rw [this, sup_comm]
+  rwa [← map_smul'', ← h_comap.eq_iff, comap_map_eq, comap_map_eq, Submodule.ker_mkQ, sup_comm,
+    sup_comm (b := N)] at this
+
+/-- **Nakayama's Lemma** - A slightly more general version of (4) in
+[Stacks 00DV](https://stacks.math.columbia.edu/tag/00DV).
+See also `smul_sup_le_of_le_smul_of_le_jacobson_bot` for the special case when `J = ⊥`.  -/
+theorem smul_sup_eq_smul_sup_of_le_smul_of_le_jacobson {I J : Ideal R} {N N' : Submodule R M}
```
Comment (jcommelin) [inline Mathlib/RingTheory/Nakayama.lean:90]: And here
```suggestion
theorem smul_sup_eq_sup_smul_of_le_jacobson_of_le_smul {I J : Ideal R} {N N' : Submodule R M}
```
and similar for other names?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
